US08053577B2
Methyl 2-cyclohexylideneacetate
2.184 g trimethylphosphonoacetate was dissolved in DCM, stirred on ice-water bath, and 384 mg NaH was added. After 6 hours 980 mg cyclohexanone was added into the reaction flask, and stirred at ambient temperature overnight. The next day, the reaction mixture was washed with water twice, saturated aqueous NaCl solution once, dried over anhydrous MgSO4 for 2 hours, filtrated, and the filtrate was dried under vacuum to give 1.227 g of the title crude product.

reactant | trimethylphosphonoacetate | 2.184 g | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | NaH | 384 mg | [H-].[Na+]
reactant | cyclohexanone | 980 mg | C1(CCCCC1)=O | C6H10O
reactant | DCM | C(Cl)Cl | CH2Cl2
product | Methyl 2-cyclohexylideneacetate | 1.227 g | C1(CCCCC1)=CC(=O)OC | C9H14O2
